### PR TITLE
feat(ErdosProblems): 1108

### LINKED ISSUE #1305: Erdős Problem 1108
### What is the conjecture

https://www.erdosproblems.com/1108

  Let 
$$A = \left\\{ \sum_{n\in S}n! : S\subset \mathbb{N}\textrm{ finite}\right\\}.$$ 
If $k\geq 2$, then does $A$ contain only finitely many $k$-th powers? Does it contain only finitely many powerful numbers?

Status:open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by ayush31010**
Closes #1305

### CODE REVIEW

**Comment by YaelDillies** [comment]
> Solved #1305

This isn't recognised by github. You need to say "Closes #1305" instead.

File: FormalConjectures/ErdosProblems/1108.lean [hunk 1]
```diff
@@ -0,0 +1,58 @@
...
+sums of distinct factorials.
+-/
+def FactorialSums : Set ℕ :=
+  { m : ℕ | ∃ S : Finset ℕ, m = S.sum (fun n => Nat.factorial n) }
+
+/--
+A number is powerful if each prime factor appears with exponent at least 2.
+-/
+def IsPowerful (n : ℕ) : Prop :=
+  ∀ p : ℕ, Nat.Prime p → ¬ (p ∣ n ∧ ¬ p ^ 2 ∣ n)
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1108.lean]: Perhaps less confusing
```suggestion
  ∀ p : ℕ, p.Prime → p ∣ n → p ^ 2 ∣ n
```

File: FormalConjectures/ErdosProblems/1108.lean [hunk 2]
```diff
@@ -0,0 +1,58 @@
...
+open Nat Filter
+
+namespace Erdos1108
+
+/--
+The set $A = \left\{ \sum_{n\in S}n! : S\subset \mathbb{N}\text{ finite}\right\}$ of all finite
+sums of distinct factorials.
+-/
+def FactorialSums : Set ℕ :=
+  { m : ℕ | ∃ S : Finset ℕ, m = S.sum (fun n => Nat.factorial n) }
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1108.lean]: Could you use the sum notation here?

File: FormalConjectures/ErdosProblems/1108.lean [hunk 3]
```diff
@@ -0,0 +1,58 @@
...
+
+/--
+A number is powerful if each prime factor appears with exponent at least 2.
+-/
+def IsPowerful (n : ℕ) : Prop :=
+  ∀ p : ℕ, Nat.Prime p → ¬ (p ∣ n ∧ ¬ p ^ 2 ∣ n)
+
+/--
+For $k \geq 2$, does the set $A$ contain only finitely many $k$-th powers?
+-/
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1108.lean:43]: Can you make this docstring self-contained? If I read this only, then currently I have no idea what `A` is

File: FormalConjectures/ErdosProblems/1108.lean [hunk 4]
```diff
@@ -0,0 +1,58 @@
...
+theorem erdos_1108.k_th_powers : (∀ k ≥ 2,
+    Set.Finite { a ∈ FactorialSums | ∃ m : ℕ, m ^ k = a }) ↔ answer(sorry) := by
+  sorry
+
+/--
+Does the set $A$ contain only finitely many powerful numbers?
+-/
+@[category research open, AMS 11]
+theorem erdos_1108.powerful_numbers :
+    (Set.Finite { a ∈ FactorialSums | IsPowerful a }) ↔ answer(sorry) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1108.lean]:
```suggestion
    {a ∈ FactorialSums | IsPowerful a}.Finite ↔ answer(sorry) := by
```

File: FormalConjectures/ErdosProblems/1108.lean (hunk 2 above)
Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/1108.lean]: Ping

Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/1108.lean]: Yes

Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/1108.lean]: Made all the changes

Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/1108.lean]: Have you forgotten to push maybe? I don't see any `∑` anywhere

Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/1108.lean]: No I am getting syntax error trying to debug it

Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/1108.lean]:
```suggestion
  {m : ℕ | ∃ S : Finset ℕ, m = ∑ n ∈ S, n.factorial}
```
is what I would expect

**Comment by ayushdebnath012** [comment]
Done @YaelDillies

**Review by YaelDillies — APPROVED** [review]
Thanks!

**Comment by ayushdebnath012** [comment]
@YaelDillies can you plz run this again

File: FormalConjectures/ErdosProblems/1108.lean [hunk 5]
```diff
@@ -0,0 +1,57 @@
...
+-/
+def FactorialSums : Set ℕ :=
+  {m : ℕ | ∃ S : Finset ℕ, m = ∑ n ∈ S, n.factorial}
+
+/--
+A number is powerful if each prime factor appears with exponent at least 2.
+-/
+def IsPowerful (n : ℕ) : Prop :=
+  ∀ p : ℕ, p.Prime → p ∣ n → p ^ 2 ∣ n
+/--
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/1108.lean:41]:
```suggestion

/--
```

Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/1108.lean:41]: Whoops sorry, missed that
